US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-3-fluorobenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 3-fluorobenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.88-1.98 (m, 3H), 2.03 (s, 1H), 2.26-2.33 (m, 4H), 3.42 (s, 2H), 3.48-3.56 (m, 4H), 4.37 (s, 1H), 7.27-7.32 (m, 1H), 7.44-7.53 (m, 1H), 7.55-7.62 (m, 1H), 7.66 (d, J=8 Hz, 1H); MS (APCI/NH3) m/z 275 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 3-fluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-3-fluorobenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=CC(=CC=C2)F)=O | C16H19FN2O
